US08138340B2
4,4,4-Trifluoro-N-hydroxy-2-methyl-3-oxobutyramide
NaOH (2.01 g, 50.5 mmol) was dissolved in water (30 mL) at 0° C. A sol. of hydroxylamine hydrochloride (1.75 g, 25.2 mmol) in water (30 mL) was added. Ethyl 2-methyl-4,4,4-trifluoroacetoacetate (5.00 g, 25.2 mmol) was added, and the mixture was stirred at 0° C. for 90 min. Aq. cone. HCl (26 mL) was added and the mixture was stirred for 1 h at 4° C. The mixture was filtered, and the precipitate was dried under high vacuum at 40° C. This delivered a first crop of title compound (0.56 g, 12%). The filtrate was extracted with EtOAc (2×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Drying the residue under high vacuum yielded a second crop of the title compound (1.81 g, 38%; total: 2.37 g, 50%). LC-MS: tR=0.58, ES+: not visible.

reactant | NaOH | 50.5 mmol, 2.01 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 25.2 mmol, 1.75 g | Cl.NO
reactant | Ethyl 2-methyl-4,4,4-trifluoroacetoacetate | 25.2 mmol, 5.00 g | CC(C(=O)OCC)C(=O)C(F)(F)F | C7H9F3O3
reactant | HCl | 26 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 4,4,4-Trifluoro-N-hydroxy-2-methyl-3-oxobutyramide | 1.81 g | FC(C(C(C(=O)NO)C)=O)(F)F | C5H6F3NO3
